US07173004B2
Preparation of Compound 10, [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-14-yl]-carbamic acid tert-butyl ester
To a mixture of 140 mg (0.2 mmol) of [4-cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester in 3 mL of methanol was added 656 mg (4 mmol)of dipotassium azodicarboxylate. Glacial acetic acid (480 mg, 8 mmol)in 2 mL of methanol was added slowly by a syringe pump over 5 h. The mixture was stirred at rt. After 5 h, another 656 mg (4 mmol) of dipotassium azodicarboxylate and 480 mg (8 mmol) of glacial acetic acid was added over the course of 5 h and the stirring was continued overnight. This cycle was repeated twice. LC-MS showed about 40% starting material still was remaining. The solvent was then removed on a rotary evaporator. Water was added to the residue and the mixture was extracted three times with ethyl acetate. It was then dried with magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was dissolved in methanol and purified by preparative HPLC (YMC XTERRA, S5, 30×50 mm, gradient: 72% B to 78% B, 15 min, hold 2 min, flow rate 40 ml/min) to isolate the product as a white powder (80 mg, 57%). LC-MS (Method A, retention time: 3.59 min), MS m/z 698 (M++1).

reactant | [4-cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | 0.2 mmol, 140 mg | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O | C35H45N5O8S
reactant | dipotassium azodicarboxylate | 4 mmol, 656 mg | N(=NC(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | acetic acid | 8 mmol, 480 mg | C(C)(=O)O | C2H4O2
reactant | dipotassium azodicarboxylate | 4 mmol, 656 mg | N(=NC(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | acetic acid | 8 mmol, 480 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-14-yl]-carbamic acid tert-butyl ester | 80 mg, 57% | C(C)(C)(C)OC(NC1CCCCCCCC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O | C35H47N5O8S
